US07737164B2
3-bromo-4′-(tetrahydropyranyloxy)chalcone (THP-4Ae).
4′-Tetrahydropyranyloxy-acetophenone (1.1 g, 5.0 mmol, synthesized according to our previously reported method),ii 3-bromobenzaldehyde (650 μL, 5.5 mmol), and MeOH (20 mL) were combined in a 50 mL round bottom flask with a stir bar. After all of the reactants were dissolved, 50% (w/v) aq. NaOH (1.5 mL, 27.5 mmol) was added. The flask was stoppered and stirred at room temperature for 5 h. The resulting precipitate was filtered, washed with EtOH (1 mL, 3×), and allowed to air dry to afford 1.06 g of THP-4Ae as a white powder (55% yield). The product was used without further purification. TLC: Rf=0.23 (hexane/EtOAc 4:1); Melting point: 166-168° C.; 1H NMR: (300 MHz, CDCl3) δ 8.01, 7.14 (AA′XX′ peak, Jaa′=Jxx′=2.5, Jax=8.5, Jax′=0.3 Hz, 2H), 7.78 (t, J=1.7 Hz, 1H), 7.70 (d, J=15.5 Hz, 1H), 7.54 (bs, 1H), 7.51 (m, 2H), 7.29 (d, J=7.9 Hz, 1H), 5.54 (t, J=3 Hz, 1H), 3.87 (ddd, J=11.3, 8.5, 3 Hz, 1H), 3.63 (dtd, J=11.3, 44.0, 1.4 Hz, 1H), 2.03 (m, 1H), 1.70 (m, 1H); 13C NMR: (75 MHz, CDCl3) δ 188.60, 161.35, 142.33, 137.48, 133.24, 131.64, 130.93, 130.63, 127.38, 123.45, 123.28, 116.39, 96.32, 62.27, 30.32, 25.28, 18.70; IR (ATR): 2946, 1660, 1607, 1595, 1576, 1557, 1509, 1480, 1420, 1357, 1331, 1314, 1284, 1224, 1202, 1175, 1112, 1076, 1038, 1022, 1010, 965 cm−1; ESI-MS: expected, 386.1; observed, m/z 387.0 [M+H+].

reactant | 4′-Tetrahydropyranyloxy-acetophenone | O1C(CCCC1)OC1=CC=C(C=C1)C(C)=O | C13H16O3
reactant | 3-bromobenzaldehyde | 5.5 mmol, 650 μL | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | NaOH | 27.5 mmol, 1.5 mL | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 3-bromo-4′-(tetrahydropyranyloxy)chalcone | 55% yield | BrC=1C=C(C=CC1)C=CC(=O)C1=CC=C(C=C1)OC1OCCCC1 | C20H19BrO3
